US04138289
For the verification of the optical purity the compound obtained is hydrogenated on pre-hydrogenated platinum dioxide to (3R,7R)-1-chloro-3,7,11-trimethyldodecane; boiling point at 0.07 mm; 90°; = -1.2° (4.08% in CHCl3), which is converted by heating with dry potassium acetate in dimethylformamide (4 hours at 170°). This ester is purified by adsorption on silicagel (elution agent: n-hexane/ether 4+1), then further reacted to (3R,7R)-3,7,11-trimethyl-1-dodecanol by stirring with 4-N aqurous caustic potash (30 min. at room temperature). The mixture is extracted, washed neutral, dried, concentrated, distilled in the bulb-tube (115°, 0.20 Torr) and there is obtained 3R,7R)-3,7,11-trimethyl-1-dodecanol in 94% yield (based on (3R,7R)-1-chloro-3,7,11-trimethyl-dodecane employed). The product has an optical rotation value of [α]D20 = +3.7° (4.14% in n-octane) and is accordingly identical with authentic material.

reactant | (3R,7R)-1-chloro-3,7,11-trimethyldodecane | ClCC[C@@H](CCC[C@@H](CCCC(C)C)C)C | C15H31Cl
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | caustic potash | [OH-].[K+]
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3,7,11-trimethyl-1-dodecanol | 94% yield | CC(CCO)CCCC(CCCC(C)C)C | C15H32O
